*|NET APpolysub 1.591776e-14
C0 APpolysub GROUND 6.7417576e-26
C1 APpolysub uAPpolysub 2.4168824982513425e-16
C2 APpolysub signalGND 5.342143821417708e-16
C3 APpolysub lAPpolysub 1.102109e-15
C4 APpolysub rAPpolysub 1.102109e-15
C5 APpolysub dAPpolysub 1.293762e-14
