*|NET M7M4M1 3.3153897999999995e-14
C0 M7M4M1 dM7M4M1 4.721919999973201e-16
C1 M7M4M1 signalGND 1.5004897794530412e-15
C2 M7M4M1 lM7M4M1 1.5461517e-14
C3 M7M4M1 rM7M4M1 1.5461493e-14
C4 M7M4M1 uM7M4M1 2.582024e-16
