*|NET NT1 8.87180838e-16
C1 NT1 GROUND 2.933238e-17
C2 NT1 NT4 4.2690826778140003e-16
C3 NT1 NT7 4.0219122081370003e-16
C4 NT1 NT6 1.3428217610000004e-17
C5 NT1 NT12 1.354626226e-17
C6 NT1 signalGND 1.7741944e-18
*|NET NT4 8.624540780000001e-16
C7 NT4 GROUND 1.654889e-17
C8 NT4 NT7 6.598092555490001e-18
C9 NT4 NT6 6.795673549999999e-19
C10 NT4 NT12 4.0947926919999997e-16
C11 NT4 NT1 4.253139948e-16
C12 NT4 signalGND 3.8344290999999995e-18
*|NET NT6 8.93001186e-16
C13 NT6 GROUND 3.089047e-17
C14 NT6 NT4 6.797724246500001e-19
C15 NT6 NT7 5.1360420101250005e-16
C16 NT6 NT12 8.556364783e-19
C17 NT6 NT1 1.3424548380000003e-17
C18 NT6 signalGND 3.33546445e-16
*|NET NT7 9.37264467e-16
C19 NT7 GROUND 1.654147e-17
C20 NT7 NT4 6.5987191992e-18
C21 NT7 NT6 5.086728491000001e-16
C22 NT7 NT12 7.237215559999999e-19
C23 NT7 NT1 4.01085351e-16
C24 NT7 signalGND 3.6425044e-18
*|NET NT12 6.231325020000001e-16
C25 NT12 GROUND 3.122362e-17
C26 NT12 NT4 4.132860184104001e-16
C27 NT12 NT7 7.2306838051799995e-19
C28 NT12 NT6 8.548803119300001e-19
C29 NT12 NT1 1.3543396050000001e-17
C30 NT12 signalGND 1.635014927e-16
