*|NET M4M1poly 1.6464417800000003e-14
C0 M4M1poly dM4M1poly 8.174053e-15
C1 M4M1poly signalGND 7.439030140876462e-17
C2 M4M1poly lM4M1poly 2.9680561000000007e-15
C3 M4M1poly rM4M1poly 2.9681349000000003e-15
C4 M4M1poly uM4M1poly 2.27978320849423e-15
