*|NET M8polysub 2.15818e-14
C0 M8polysub signalGND 1.4978656438070141e-15
C1 M8polysub lM8polysub 8.032486e-15
C2 M8polysub rM8polysub 8.032486e-15
C3 M8polysub uM8polysub 1.4999882673663147e-16
C4 M8polysub dM8polysub 3.868964e-15
