*|NET NoLayerALRDLM4 8.210106e-15
C0 NoLayerALRDLM4 dNoLayerALRDLM4 5.69471948404e-15
C1 NoLayerALRDLM4 lNoLayerALRDLM4 9.256573e-16
C2 NoLayerALRDLM4 rNoLayerALRDLM4 9.256542e-16
