*|NET NoLayerTMpoly 1.419204e-14
C1 NoLayerTMpoly rNoLayerTMpoly 9.778831e-16
C0 NoLayerTMpoly lNoLayerTMpoly 9.778846e-16
C2 NoLayerTMpoly dNoLayerTMpoly 1.133239e-14
