*|NET NoLayerTMM1 9.584033e-15
C0 NoLayerTMM1 GROUND 6.167109e-17
C1 NoLayerTMM1 dNoLayerTMM1 7.464157e-15
C2 NoLayerTMM1 signalGND 4.867595911e-16
C3 NoLayerTMM1 lNoLayerTMM1 7.85723e-16
C4 NoLayerTMM1 rNoLayerTMM1 7.857235e-16
