*|NET 1 9.176692675804292e-16
C1 1 GROUND 1.74937129e-17
C2 1 2 1.849878959329723e-17
C3 1 3 1.6741187825602342e-17
C4 1 4 4.569758202292e-16
C5 1 5 3.972628549023e-16
C6 1 6 1.1304697531599998e-18
C7 1 signalGND 9.566684487e-18
*|NET 2 9.53991655968136e-16
C8 2 GROUND 2.3123469e-17
C9 2 1 1.8502064456341546e-17
C10 2 3 3.824230722287587e-17
C11 2 4 1.3308057174999998e-18
C12 2 5 4.3524329462969996e-16
C13 2 6 4.221798524549e-16
C14 2 signalGND 1.537001388e-17
*|NET 4 7.171507840050001e-16
C15 4 GROUND 1.2566011200000001e-17
C16 4 1 4.562816324503953e-16
C17 4 2 1.3282048199754028e-18
C18 4 3 2.3186387514343908e-17
C19 4 5 5.40063839005e-17
C20 4 6 9.65877047906e-19
C21 4 signalGND 1.688162144792e-16
*|NET 5 1.0035149840150002e-15
C22 5 GROUND 2.9138327e-17
C23 5 1 3.9836897057769397e-16
C24 5 2 4.3355830290205607e-16
C25 5 3 2.7099856576922938e-17
C26 5 4 5.4010196930199984e-17
C27 5 6 5.89898590553e-17
C28 5 signalGND 2.349213318e-18
*|NET 6 8.733992595899999e-16
C29 6 GROUND 1.1757597999999999e-17
C30 6 1 1.124118557876725e-18
C31 6 2 4.2090236792447507e-16
C32 6 3 2.391903500676939e-17
C33 6 4 9.658041482320003e-19
C34 6 5 5.901049595782e-17
C35 6 signalGND 3.55719759876e-16
