*|NET 1 8.763291910000002e-16
C1 1 GROUND 4.7784680999999995e-18
C2 1 2 9.436147797559997e-18
C3 1 3 4.450513713333e-16
C4 1 4 3.9911122299809996e-16
C5 1 5 9.1530392652e-19
C6 1 signalGND 4.2267669e-18
C7 1 14 1.281011e-17
*|NET 2 8.78515198e-16
C8 2 GROUND 3.9595215999999995e-18
C9 2 1 9.435158218739997e-18
C10 2 3 9.7580518696e-19
C11 2 4 4.3837506992129997e-16
C12 2 5 4.0814831862950006e-16
C13 2 signalGND 4.0145674e-18
C14 2 14 1.360695e-17
*|NET 3 6.685331067340002e-16
C15 3 GROUND 1.13530948e-17
C16 3 1 4.505470565023e-16
C17 3 2 9.75498552077e-19
C18 3 4 1.6235081254400005e-17
C19 3 5 1.1342655468249996e-18
C20 3 signalGND 1.669746502e-16
C21 3 14 2.131339e-17
*|NET 4 9.05362830624e-16
C22 4 GROUND 7.531138600000001e-18
C23 4 1 4.0125927953870004e-16
C24 4 2 4.4052385982980006e-16
C25 4 3 1.62343713972e-17
C26 4 5 1.6070481161699993e-17
C27 4 signalGND 1.7535099e-18
C28 4 14 2.198997e-17
*|NET 5 8.13629334741e-16
C29 5 GROUND 8.802102999999999e-18
C30 5 1 9.152612943369006e-19
C31 5 2 4.1404966289030003e-16
C32 5 3 1.1348337126430002e-18
C33 5 4 1.60648848975e-17
C34 5 signalGND 3.490807168e-16
C35 5 14 2.358174e-17
