*|NET G 1.8767555390000001e-16
C0 G ln_24 2.099261e-17
C1 G ln_13 8.287621597257001e-19
C2 G ln_14 8.287107378702999e-19
C3 G S 6.778533175000001e-17
C4 G D 6.777357919000004e-17
C5 G ln_9 1.2929465013900002e-18
C6 G ln_6 1.29361230121e-18
C7 G FL_0 3.157559e-19
C8 G FL_1 4.49514e-19
C9 G FL_2 4.481043e-19
C10 G FL_3 3.144556e-19
C11 G ln_8 1.2144612242e-17
C12 G ln_7 1.2148194703999999e-17
C13 G FL_4 1.910815615e-19
C14 G FL_5 3.353636339e-19
C15 G FL_6 3.353315632e-19
C16 G FL_7 1.9126371450000002e-19
