*|NET G 1.8053341559999999e-16
C0 G ln_24 2.090225e-17
C1 G ln_13 8.317383245514999e-19
C2 G ln_14 8.316991135426e-19
C3 G S 6.443940318999998e-17
C4 G D 6.443958258e-17
C5 G ln_9 1.28722373282e-18
C6 G ln_6 1.28760323569e-18
C7 G FL_0 3.136788e-19
C8 G FL_1 4.475516e-19
C9 G FL_2 4.467773e-19
C10 G FL_3 3.127242e-19
C11 G ln_8 1.1963897828e-17
C12 G ln_7 1.1967201917e-17
C13 G FL_4 1.917334026e-19
C14 G FL_5 3.3639811400000004e-19
C15 G FL_6 3.36452112e-19
C16 G FL_7 1.920325336e-19
