*|NET G 1.8486928290000005e-16
C0 G ln_24 2.095866e-17
C1 G ln_13 8.300403366443998e-19
C2 G ln_14 8.299985907923002e-19
C3 G S 6.646528991999998e-17
C4 G D 6.646602244999999e-17
C5 G ln_9 1.29061780586e-18
C6 G ln_6 1.29114628869e-18
C7 G FL_0 3.148883e-19
C8 G FL_1 4.486967e-19
C9 G FL_2 4.475801e-19
C10 G FL_3 3.137492e-19
C11 G ln_8 1.2074295411000001e-17
C12 G ln_7 1.2077607800000001e-17
C13 G FL_4 1.9136992889999999e-19
C14 G FL_5 3.35824437e-19
C15 G FL_6 3.35830397e-19
C16 G FL_7 1.916062902e-19
