*|NET G 1.8963814990000002e-16
C0 G ln_24 2.100928e-17
C1 G ln_13 8.277439180153e-19
C2 G ln_14 8.276967558724997e-19
C3 G S 6.870669263000002e-17
C4 G D 6.870386934000001e-17
C5 G ln_9 1.29447338769e-18
C6 G ln_6 1.29524784055e-18
C7 G FL_0 3.163847e-19
C8 G FL_1 4.500772e-19
C9 G FL_2 4.484083e-19
C10 G FL_3 3.149417e-19
C11 G ln_8 1.2191091344e-17
C12 G ln_7 1.2194337579e-17
C13 G FL_4 1.9085776059999999e-19
C14 G FL_5 3.349853908e-19
C15 G FL_6 3.349198448e-19
C16 G FL_7 1.909922313e-19
