*|NET G 1.911443938e-16
C0 G ln_24 2.103093e-17
C1 G ln_13 8.270373697738e-19
C2 G ln_14 8.269966850204e-19
C3 G S 6.941118158000002e-17
C4 G D 6.939920430000001e-17
C5 G ln_9 1.2961068410200001e-18
C6 G ln_6 1.29690996499e-18
C7 G FL_0 3.170188e-19
C8 G FL_1 4.506863e-19
C9 G FL_2 4.488488e-19
C10 G FL_3 3.154371e-19
C11 G ln_8 1.2231578149e-17
C12 G ln_7 1.2235202669e-17
C13 G FL_4 1.906205962e-19
C14 G FL_5 3.3488994800000004e-19
C15 G FL_6 3.3460457689999997e-19
C16 G FL_7 1.9077106159999998e-19
