*|NET G 1.9325991290000003e-16
C0 G ln_24 2.104921e-17
C1 G ln_13 8.259124629653e-19
C2 G ln_14 8.258881805341998e-19
C3 G S 7.040771330000002e-17
C4 G D 7.039444450000002e-17
C5 G ln_9 1.29813690289e-18
C6 G ln_6 1.29811168217e-18
C7 G FL_0 3.178726e-19
C8 G FL_1 4.514847e-19
C9 G FL_2 4.514627e-19
C10 G FL_3 3.158449e-19
C11 G ln_8 1.2282298850999999e-17
C12 G ln_7 1.2285937027000001e-17
C13 G FL_4 1.9026252e-19
C14 G FL_5 3.341624219e-19
C15 G FL_6 3.340975665e-19
C16 G FL_7 1.9042745489999999e-19
