*|NET G 1.9471671430000005e-16
C0 G ln_24 2.106496e-17
C1 G ln_13 8.250785282295499e-19
C2 G ln_14 8.2505490310179e-19
C3 G S 7.109189795999997e-17
C4 G D 7.107512576999998e-17
C5 G ln_9 1.29970345061e-18
C6 G ln_6 1.29965982303e-18
C7 G FL_0 3.185477e-19
C8 G FL_1 4.521163e-19
C9 G FL_2 4.527932e-19
C10 G FL_3 3.159399e-19
C11 G ln_8 1.2318977608e-17
C12 G ln_7 1.2322686223e-17
C13 G FL_4 1.8992071490000002e-19
C14 G FL_5 3.3374524200000004e-19
C15 G FL_6 3.3369031300000003e-19
C16 G FL_7 1.901526277e-19
