*|NET G 1.9579148129999998e-16
C0 G ln_24 2.107731e-17
C1 G ln_13 8.2444383279913e-19
C2 G ln_14 8.2441917594577e-19
C3 G S 7.159135996999999e-17
C4 G D 7.158250064999999e-17
C5 G ln_9 1.30090984794e-18
C6 G ln_6 1.30090694316e-18
C7 G FL_0 3.190572e-19
C8 G FL_1 4.526051e-19
C9 G FL_2 4.521449e-19
C10 G FL_3 3.168536e-19
C11 G ln_8 1.2346060288999999e-17
C12 G ln_7 1.234964586e-17
C13 G FL_4 1.899090367e-19
C14 G FL_5 3.3343663920000005e-19
C15 G FL_6 3.333574053e-19
C16 G FL_7 1.8992333930000002e-19
