*|NET G 1.7240082230000005e-16
C0 G ln_24 2.079083e-17
C1 G ln_13 8.345653996226002e-19
C2 G ln_14 8.345525854645003e-19
C3 G S 6.062655635e-17
C4 G D 6.066818807000001e-17
C5 G ln_9 1.2813007542300001e-18
C6 G ln_6 1.28148950444e-18
C7 G FL_0 3.116992e-19
C8 G FL_1 4.456336e-19
C9 G FL_2 4.452397e-19
C10 G FL_3 3.109393e-19
C11 G ln_8 1.1751305563e-17
C12 G ln_7 1.1753785209999999e-17
C13 G FL_4 1.9231986459999997e-19
C14 G FL_5 3.3727401300000003e-19
C15 G FL_6 3.3737992199999997e-19
C16 G FL_7 1.926861334e-19
